US04710507
A mixture of 6-bromo-2-[1H]-quinolone (2.90 g) and trimethyloxoniumtetrafluoroborate (2.10 g) was stirred in dichloromethane (50 cm3) for 48 hours under nitrogen. Aqueous 10% sodium hydroxide (20 cm3) was added and the aqueous phase was extracted with dichloromethane (2×40 cm3). The dried (MgSO4) extracts were evaporated and the residue was crystallised from petroleum ether (b.p. 60°-80°) to yield 2-methoxy-6-bromoquinoline, m.p. 90°-94°, (2.16 g).

reactant | 6-bromo-2-[1H]-quinolone | 2.90 g | BrC=1C=C2C=CC(NC2=CC1)=O | C9H6BrNO
reactant | trimethyloxoniumtetrafluoroborate | 2.10 g | F[B-](F)(F)F.C[O+](C)C
reactant | sodium hydroxide | 20 cm3 | [OH-].[Na+]
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | 2-methoxy-6-bromoquinoline | COC1=NC2=CC=C(C=C2C=C1)Br | C10H8BrNO
